US08232287B2
benzyl 4-({6-[5-(methylsulfonyl)indolin-1-yl]pyrimidin-4-yl}oxy)piperidine-1-carboxylate (exemplary compound No: 49)
Diisopropylethylamine (93 μL, 0.53 mmol) and benzyl chloroformate (57 μL, 0.40 mmol) were added at 0° C. to a dichloromethane (5 mL) solution of the 5-(methylsulfonyl)-1-[6-(piperidin-4-yloxy)pyrimidin-4-yl]indoline (100 mg, 0.267 mmol) produced in Reference Example 28, and the mixture was stirred at room temperature for 1 hour. To the reaction solution, water was added, followed by extraction with dichloromethane three times. The obtained organic layer was washed with saturated saline and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=5:1-1:1, V/V). The obtained crude product was washed with diisopropyl ether to obtain the title compound as white powder (67.3 mg, yield: 50%).

reactant | Diisopropylethylamine | 0.53 mmol, 93 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzyl chloroformate | 0.40 mmol, 57 μL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | dichloromethane | 5 mL | ClCCl | CH2Cl2
reactant | 5-(methylsulfonyl)-1-[6-(piperidin-4-yloxy)pyrimidin-4-yl]indoline | 0.267 mmol, 100 mg | CS(=O)(=O)C=1C=C2CCN(C2=CC1)C1=NC=NC(=C1)OC1CCNCC1 | C18H22N4O3S
solvent | water | O | H2O
product | benzyl 4-({6-[5-(methylsulfonyl)indolin-1-yl]pyrimidin-4-yl}oxy)piperidine-1-carboxylate | 67.3 mg, yield: 50% | CS(=O)(=O)C=1C=C2CCN(C2=CC1)C1=CC(=NC=N1)OC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C26H28N4O5S
